US07728023B2
ethyl 4-{1-[2-(ethyloxy)-2-oxoethyl]-7-ethynyl-1H-indol-3-yl}butanoate
To an ethanol (2 mL) solution of ethyl 4-{1-[2-(ethyloxy)-2-oxoethyl]-7-[(trimethylsilyl)ethynyl]-1H-indol-3-yl}butanoate (98 mg), potassium carbonate (50 mg) was added and the mixture was stirred at room temperature for 3 hours. To the reaction mixture, water was added, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous sodium sulfate and then concentrated to obtain the titled compound having the following physical properties (74 mg). Herein, ethyl 4-{1-[2-(ethyloxy)-2-oxoethyl]-7-[(trimethylsilyl)ethynyl]-1H-indol-3-yl}butanoate was prepared by the same operation as in Example 3, except for using ethyl 4-{7-bromo-1-[2-(ethyloxy)-2-oxoethyl]-1H-indol-3-yl}butanoate and ethynyl(trimethyl)silane.

reactant | ethanol | 2 mL | C(C)O | C2H6O
reactant | ethyl 4-{1-[2-(ethyloxy)-2-oxoethyl]-7-[(trimethylsilyl)ethynyl]-1H-indol-3-yl}butanoate | 98 mg | C(C)OC(CN1C=C(C2=CC=CC(=C12)C#C[Si](C)(C)C)CCCC(=O)OCC)=O | C23H31NO4Si
reactant | potassium carbonate | 50 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | ethyl 4-{1-[2-(ethyloxy)-2-oxoethyl]-7-ethynyl-1H-indol-3-yl}butanoate | C(C)OC(CN1C=C(C2=CC=CC(=C12)C#C)CCCC(=O)OCC)=O | C20H23NO4
